US04734419
To a solution of 3,4-dichlorobenzylamine (3.97 g) and triethylamine (3.5 ml) in chloroform (80 ml) was added a solution of 2-nitrobenzenesulfonyl chloride (5 g) in chloroform (20 ml) at 0° C. with stirring and the mixture was stirred for 30 minutes at the same temperature. The reaction mixture was washed successively with diluted hydrochloric acid and water, and then dried. Evaporation of the solvent gave N-(3,4-dichlorobenzyl)-2-nitrobenzenesulfonamide (6.87 g).

reactant | 3,4-dichlorobenzylamine | 3.97 g | ClC=1C=C(CN)C=CC1Cl | C7H7Cl2N
reactant | triethylamine | 3.5 ml | C(C)N(CC)CC | C6H15N
reactant | 2-nitrobenzenesulfonyl chloride | 5 g | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClNO4S
solvent | chloroform | 80 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | N-(3,4-dichlorobenzyl)-2-nitrobenzenesulfonamide | 6.87 g | ClC=1C=C(CNS(=O)(=O)C2=C(C=CC=C2)[N+](=O)[O-])C=CC1Cl | C13H10Cl2N2O4S
